US06586429B2
To a stirring mixture of (S)-3-(5-hydroxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione (100 mg, 0.311 mmol) and p-dimethylaminopyridine (98 mg, 0.8 mmol) in chloroform was added methanesulfonic anhydride (87 mg, 0.50 mmol). After stirred at room temperature for 16 hours, the reaction mixture was treated with methanol (1.0 ml) and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with ethyl acetate to provide (S)-3-(5-methanesulfonyloxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione (100 mg, 80% yield) as a white powder.

reactant | (S)-3-(5-hydroxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione | 0.311 mmol, 100 mg | O[C@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCCN3)C)=O)C | C15H23N5O3
reactant | methanesulfonic anhydride | 0.50 mmol, 87 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanol | 1.0 ml | CO | CH4O
catalyst | p-dimethylaminopyridine | 0.8 mmol, 98 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)-3-(5-methanesulfonyloxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione | 100 mg, 80% yield | CS(=O)(=O)O[C@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCCN3)C)=O)C | C16H25N5O5S
